US08980899B2
The intermediate 2-(1-methoxy-2-(3-nitrophenyl)ethylidene)malononitrile (1.2 g, 4.7 mmol) was combined with isopropylhydrazine-HCl (0.57 g, 5.2 mmol; Sigma-Aldrich), 1.4 mL triethylamine in 50 mL EtOH for 2 hours at RT. The reaction was concentrated in vacuo, suspended in brine, and extracted with chloroform. The organic layer was dried over MgSO4. Following, the organic suspension was filtered, concentrated in vacuo, and purified on silica gel in 1% MeOH:CHCl3 to yield 3-(3-nitrobenzyl)-5-amino-1-isopropyl-1H-pyrazole-4-carbonitrile (ESI-MS m/z [M+H]+ found 286.4, calculated 286.12). The product was combined with formamide (1.5 mL) and heated to 160° C. overnight. H2O was added to the cooled reaction, and the precipitate was filtered and dried to yield 3-(3-nitrobenzyl)-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine (ESI-MS m/z [M+H]+ found 313.4, calculated 313.13). This precipitated intermediate was then mixed with excess zinc dust, 5 mL THF, and 0.4 mL HOAc for 12 hours under argon at room temperature. Afterwards the reaction was filtered through Celite®, extracted with EtOAc, and concentrated in vacuo to yield 3-(3-aminobenzyl)-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine ESI-MS m/z [M+H]+ found 283.11, calculated 282.16. To the reduced precursor, molar equivalents of 3-(trifluoromethyl)phenyl isocyanate (Sigma-Aldrich) were added dropwise in ice-cold CH2Cl2. The reaction proceeded until completion as judged by TLC, was concentrated in vacuo, resuspended in 50:50 H2O—CH3CN, and purified on a C18 column in CH3CN/H2O/0.1% TFA (1-100% gradient) to yield final compound AD36 1-(3-((4-amino-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)methyl)phenyl)-3-(3-(trifluoromethyl)phenyl)urea (ESI-MS m/z [M+H]+ found 470.5, calculated 470.18; 1H NMR (400 MHz, DMSO): δ 9.25 (1H, s), 8.97 (s, 1H), 8.36 (s, 1H), 8.05 (s, 1H), 7.48-7.54 (m, 2H), 7.41 (s, 1H), 7.30 (d, J=8 Hz, 2H), 7.20 (t, J=8 Hz, 1H0, 6.88 (d, J=8 Hz, 1H), 5.03 (septet, J=8 Hz, 1H), 1.48 (s, 6H). 13C NMR (400 MHz, DMSO): δ 22.15, 33.44, 49.21, 98.32, 116.48 (d), 117.03, 118.92, 122.16, 122.67, 124.70 (q), 129.33, 129.98 (q), 130.47 (q), 139.50, 140.07, 141.15, 145.31, 150.15, 151.77, 152.94, 154.32, 159.10 (q))

reactant | 2-(1-methoxy-2-(3-nitrophenyl)ethylidene)malononitrile | 4.7 mmol, 1.2 g | COC(CC1=CC(=CC=C1)[N+](=O)[O-])=C(C#N)C#N | C12H9N3O3
reactant | isopropylhydrazine-HCl | 5.2 mmol, 0.57 g | Cl.C(C)(C)NN
reactant | triethylamine | 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | EtOH | 50 mL | CCO | C2H6O
product | 3-(3-nitrobenzyl)-5-amino-1-isopropyl-1H-pyrazole-4-carbonitrile | [N+](=O)([O-])C=1C=C(CC2=NN(C(=C2C#N)N)C(C)C)C=CC1 | C14H15N5O2
